US05290788
B. 1-(4-Chlorobenzyl)-5-(-5-tetrazolylmethoxy)indole
A mixture of (1-(4-Chlorobenzyl)indol-5-yl)oxyacetonitrile (2.0 g), sodium azide (0.55 g) and ammonium chloride (0.43 g) in N,N-dimethylformamide (15 ml) were heated at 140° C. for 5 hrs. The cooled mixture was poured into 5%-hydrochloride solution. The solution was extracted with ethyl acetate and the separated organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo. The crude product was recrystallized from ethanol to yield the titled product, m.p. 162°-163° C.

reactant | (1-(4-Chlorobenzyl)indol-5-yl)oxyacetonitrile | 2.0 g | ClC1=CC=C(CN2C=CC3=CC(=CC=C23)OCC#N)C=C1 | C17H13ClN2O
reactant | sodium azide | 0.55 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.43 g | [Cl-].[NH4+]
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chlorobenzyl)-5-(-5-tetrazolylmethoxy)indole | ClC1=CC=C(CN2C=CC3=CC(=CC=C23)OCC2=NN=NN2)C=C1 | C17H14ClN5O
